* forces current values to be saved
.options savecurrents

******************************************
.TRAN 1ms 200ms

.model Default D

* input voltage source
Vin 1 0 0 ac 1.0 sin(0 230 50)

**********************
*n = 19
**********************

*voltage controlled voltage source
E1 3 2 1 0 19

Vaux 2 0 0V
*current controlled current source
F1 1 0 Vaux 19


* MUDAR VALORES DO CAPACITOR E DA RESISTẼNCIA
Cfw 3 0 1u
Rfw 4 5 0.5k

Dp1.1 3 4 Default
Dp1.2 3 4 Default
Dp1.3 5 0 Default
Dp1.4 5 0 Default

* positive limiter
Dp2 6 7 Default
Dp3 7 8 Default
Dp4 8 4 Default

Rl 3 6 0.5k

.END

.op

.end

.control

******************************************

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

* analise no tempo
tran 1e-5 200e-3

******************************************
hardcopy envelope.ps v(3)
echo envelope_FIG
* hardcopy vospice400.ps v(1) v(2)

hardcopy regulator.ps v(6)
echo regulator_FIG

******************************************
meas tran output AVG v(3)
meas tran max MAX v(3)
meas tran min MIN v(3)

.endc

